US04219657
(D) 8-methyldibenzothiophene-3-carboxylic acid
To a solution of 0.73 g. of potassium hydroxide in 50 ml. of ethanol was added 3.5 g. of 8-methyldibenzothiophene-3-carboxylic acid ethyl ester. The solution was refluxed for 3 hours. The solvent was removed in vacuo on the steam bath, and the crude potassium salt was dissolved in 50 ml. of water. The solution was acidified with dilute hydrochloric acid and the product was filtered off and dried. The yield of 8-methyldibenzothiophene-3-carboxylic acid was 2 g., m.p. 290°-291°.

reactant | potassium hydroxide | [OH-].[K+]
reactant | 8-methyldibenzothiophene-3-carboxylic acid ethyl ester | C(C)OC(=O)C=1C=CC2=C(SC3=C2C=C(C=C3)C)C1 | C16H14O2S
solvent | ethanol | C(C)O | C2H6O
product | 8-methyldibenzothiophene-3-carboxylic acid | CC=1C=CC2=C(C3=C(S2)C=C(C=C3)C(=O)O)C1 | C14H10O2S
